US07205306B2
3-(7-Bromo-5-methoxy-2,3-dihydro-1H-indol-1-yl)-5-chloro-1-[(1S)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dichloro-1-[(1S)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone and 7-bromo-5-methoxyindoline hydrochloride as the starting materials. mp 100–102° C.; 1H NMR (300 MHz, CDCl3): δ 7.00 (s, 1 H), 6.92 (d, J=2.5 Hz, 1 H), 6.78 (d, J=2.6 Hz, 1 H), 4.99–4.90 (m, 1 H), 4.35 (t, J=7.7 Hz, 2 H), 3.78 (s, 3 H), 3.67 (dd, J=10.6, 5.7 Hz, 1 H), 3.56 (dd, J=10.6, 3.5 Hz, 1 H), 3.35 (s, 3 H), 3.10 (t, J=7.7 Hz, 2 H), 1.92–1.72 (m, 2 H), 0.93 (t, J=7.3 Hz, 3 H); HRMS (ESI) calcd for C18H22N3O3BrCl (M+H)+: 442.0533; found m/z 442.0516.

reactant | 3,5-dichloro-1-[(1S)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)[C@@H](CC)COC)=O | C9H12Cl2N2O2
reactant | 7-bromo-5-methoxyindoline hydrochloride | Cl.BrC=1C=C(C=C2CCNC12)OC
product | 3-(7-Bromo-5-methoxy-2,3-dihydro-1H-indol-1-yl)-5-chloro-1-[(1S)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone | BrC=1C=C(C=C2CCN(C12)C=1C(N(C=C(N1)Cl)[C@@H](CC)COC)=O)OC | C18H21BrClN3O3
